US05602277
Methyl-4-acetylamino-3-formylbenzoate (Gassman, P. G.; Drews, H. R. J. Am. Chem. Soc. 1978, 100, 7600-7610) (0.331 g, 0.0015 mol) was dissolved in methanol (5 mL) and cooled to 0° C. Sodium borohydride (0.057 g, 0.0015 mol) was added to the above solution at 0° C. and stirred for 0.25 h. The reaction was complete by TLC during this time. It was neutralized with H+ resin, filtered, and the filtrate concentrated. The residue was dried under vacuum over phosphorus pentoxide at 56° C. to give 0.33 g (99%) of methyl-4-acetylamino-3-hydroxymethylbenzoate as a pink solid, mp 60° C.

reactant | Methyl-4-acetylamino-3-formylbenzoate | 0.0015 mol, 0.331 g | COC(C1=CC(=C(C=C1)NC(C)=O)C=O)=O | C11H11NO4
reactant | Sodium borohydride | 0.0015 mol, 0.057 g | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | methyl-4-acetylamino-3-hydroxymethylbenzoate | 0.33 g, 99% | COC(C1=CC(=C(C=C1)NC(C)=O)CO)=O | C11H13NO4
